Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left hand weakness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
NIHSS performed within 6 hours of presentation at: ___

NIHSS Total: 0
1a. Level of Consciousness: 0
1b. LOC Question: 0
1c. LOC Commands: 0 
2.  Best gaze: 0
3.  Visual fields: 0
4.  Facial palsy: 0
5a. Motor arm, left: 0
5b. Motor arm, right: 0
6a. Motor leg, left: 0
6b. Motor leg, right: 0
7.  Limb Ataxia: 0
8.  Sensory: 0
9.  Language: 0
10. Dysarthria: 0
11. Extinction and Neglect: 0

HPI: 
___ right-handed with PMH of SDH s/p fall in ___, HTN who
presented to the ED after transient episode of left hand
weakness.

Patient states that he was in his usual state of health and was
feeling fine when he woke up this morning.  Around 6:45 AM, he
was brushing his teeth, washing his hands under the sink, when 
he
noticed that his left hand felt weak and he had trouble moving 
it
under the water.  He denied numbness, tingling, weakness 
anywhere
else, double vision, trouble speaking, or any other symptoms.  
No
issues with his arm or with his right hand.  This episode lasted
about 15 minutes, after which it resolved.

He states that he had an episode this past ___ when he felt 
that
he had difficulty bringing his fingers close to each other.  He
was seen by physician in ___ who told him that there may be an
issue with his ulnar nerve, and recommended exercises.  He 
states
that this episode lasted for a few weeks, after which it 
resolved
with exercise.

He states that in ___, he was found to have a subdural
hemorrhage and had surgery in ___.  He states that he fell in
___, after which he developed progressively worsened headaches
over the ensuing months.  Eventually, he sought medical care and
was found to have the SDH.  He states that headache was the only
symptom at the time.  He states that he had surgery on his right
side for the SDH.

ROS: positive per HPI
 
Past Medical History:
Hypertension
___ in ___
 
Social History:
No smoking.  Very rare EtOH.  Lives in ___ but is here in
___ visiting family.  All of his medical care is in ___. 
Patient had been planning on returning to ___ on a flight 
later
this evening.
                          
- Modified ___ Scale:
[x] 0: No symptoms
[] 1: No significant disability - able to carry out all usual
activities despite some symptoms
[] 2: Slight disability: able to look after own affairs without
assistance but unable to carry out all previous activities
[] 3: Moderate disability: requires some help but able to walk
unassisted
[] 4: Moderately severe disability: unable to attend to own
bodily needs without assistance and unable to walk unassisted
[] 5: Severe disability: requires constant nursing care and
attention, bedridden, incontinent
[] 6: Dead
 
Family History:
Father died from heart attack
No family history of stroke
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION: 
Vitals: T: 98.4 BP: 148/93 HR: 86 RR: 17 SaO2: 98
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted
Pulmonary: Normal work of breathing.
Cardiac: Warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.

Neurologic:
-Mental Status: Alert, Able to relate history without 
difficulty.
Attentive. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects.  Able to read
without difficulty. No dysarthria. Able to follow both midline
and appendicular commands. There was no evidence of apraxia or
neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.

VII: No facial droop, facial musculature symmetric.

VIII: Hearing intact to conversation.

IX, X: Palate elevates symmetrically.

XI: ___ strength in trapezii bilaterally.

XII: Tongue protrudes in midline with good excursions.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [Delt][Bic][Tri][ECR][FEx][IO][IP][Quad][Ham][TA][Gas]
L    5    5    5    5    5    5   5    5    5   5    5   
R    5    5    5    5    5    5   5    5    5   5    5   

-Sensory: No deficits to light touch, pinprick, temperature, 
vibration. No extinction to DSS.

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   1   1        2    1       0 
R   1      1      2      1      0 

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF .

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  

DISCHARGE PHYSICAL EXAM
Vitals: T: 98.1 BP: 131/76 HR: 74 RR: 18 SaO2: 97% on RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted
Pulmonary: Normal work of breathing.
Cardiac: Warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema. Negative Tinel and Phalen's signs. No 
wasting of thenar eminence. 
Skin: No rashes or lesions noted.

Neurologic:
-Mental Status: Alert, Able to relate history without 
difficulty.
Attentive. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
No dysarthria. Able to follow both midline and appendicular 
commands. 
There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. 

V: Facial sensation intact to light touch.

VII: No facial droop, facial musculature symmetric.

VIII: Hearing intact to conversation.

IX, X: Palate elevates symmetrically.

XI: ___ strength in trapezii bilaterally.

XII: Tongue protrudes in midline with good excursions.

-Motor: Normal bulk and tone throughout. No pronator drift or 
orbiting. No
adventitious movements, such as tremor or asterixis noted.
  [Delt][Bic][Tri][ECR][FEx][IO][IP][Quad][Ham][TA][Gas]
L    5    5    5    5    5    5   5    5    5   5    5   
R    5    5    5    5    5    5   5    5    5   5    5   

-Sensory: No deficits to light touch. No extinction to DSS.

-Reflexes: deferred.  

-Coordination: No intention tremor. Normal finger-tap
bilaterally. 

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  

 
Pertinent Results:
___ 12:09PM BLOOD %HbA1c-6.5* eAG-140*
___ 08:19AM BLOOD Triglyc-87 HDL-55 CHOL/HD-3.5 LDLcalc-119
___ 08:19AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 08:19AM BLOOD cTropnT-<0.01
___ 08:19AM BLOOD Albumin-4.6 Calcium-9.2 Phos-3.5 Mg-2.1 
Cholest-191
___ 08:19AM BLOOD ALT-22 AST-24 AlkPhos-49 TotBili-0.9
___ 08:19AM BLOOD Glucose-131* UreaN-18 Creat-0.9 Na-142 
K-3.8 Cl-106 HCO3-25 AnGap-11
___ 08:19AM BLOOD ___ PTT-29.0 ___
___ 08:19AM BLOOD Neuts-58.7 ___ Monos-11.9 Eos-4.9 
Baso-0.5 Im ___ AbsNeut-3.35 AbsLymp-1.35 AbsMono-0.68 
AbsEos-0.28 AbsBaso-0.03
___ 08:19AM BLOOD WBC-5.7 RBC-4.61 Hgb-13.5* Hct-39.7* 
MCV-86 MCH-29.3 MCHC-34.0 RDW-13.1 RDWSD-40.9 Plt ___
___ 05:40AM BLOOD Calcium-9.2 Phos-3.7 Mg-2.1
___ 05:40AM BLOOD Glucose-113* UreaN-18 Creat-0.8 Na-145 
K-4.1 Cl-106 HCO3-23 AnGap-16
___ 05:40AM BLOOD WBC-5.1 RBC-4.57* Hgb-13.5* Hct-40.0 
MCV-88 MCH-29.5 MCHC-33.8 RDW-13.2 RDWSD-41.4 Plt ___
___ 08:46AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 08:46AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

___ Urine culture final no growth. 

IMAGING: 
CXR ___
No acute cardiopulmonary process.

CTA ___
Wet Read by ___ on TUE ___ 12:14 ___ 
CT HEAD WITHOUT CONTRAST: 
The patient is status post right parietal craniectomy. There is 
no evidence of 
acute infarction,hemorrhage,edema,ormass. The ventricles and 
sulci are normal 
in size and configuration. 
  
The visualized portion of the paranasal sinuses, mastoid air 
cells,and middle 
ear cavities are clear. The patient is status post right lens 
replacement. 
  
CTA HEAD: 
The vessels of the circle of ___ and their principal 
intracranial branches 
appear normal without stenosis, occlusion, or aneurysm. The 
dural venous 
sinuses are patent. 
  
CTA NECK: 
Bilateral carotid and vertebral artery origins are patent. The 
carotidandvertebral arteries and their major branches appear 
normal with no 
evidence of stenosis or occlusion. 
  
OTHER: 
The adenoids are enlarged and the right tonsillar region is 
fuller than the 
left. Recommend direct visualization and outpatient ENT consult. 
There are 
multiple enlarged cervical and paratracheal lymph nodes. The 
visualized 
portion of the lungs are clear. 
  
Final report pending 3D reconstructions and reformats. 

MRI ___. No evidence of acute intracranial hemorrhage or infarction. 
2. Postsurgical changes following right parietal craniectomy are 

redemonstrated. 

ECG ___: sinus rhythm, no ST/T wave changes

TTE ___
IMPRESSION: Normal biventricular cavity sizes and 
regional/global biventricular systolic function (LVEF 61%). No 
valvular pathology or pathologic flow identified. Normal 
estimated pulmonary artery systolic
pressure. No structural cardiac source of embolism (e.g. patent 
foramen ovale/atrial septal defect, intracardiac thrombus, or 
vegetation) seen. No prior study available for comparison.

 
Brief Hospital Course:
Patient Summary: Mr. ___ is a ___ year-old male with past 
medical history of R SDH s/p fall in ___, HTN who is admitted 
to the Neurology stroke service after a transient episode of 
left hand weakness secondary to transient ischemic attack (TIA). 
His TIA was most likely secondary to an embolic event given the 
distal location (small area of cortex). He was started on ASA 81 
mg and Plavix 75mg (without a Plavix load) with a plan to 
continue dual antiplatelet therapy for a total of 21 days and 
then continue ASA 81 mg daily thereafter. His deficits resolved 
completely prior to discharge. He will be discharged to home.

His stroke risk factors include the following:
1) Most likely cardioembolic based on localization of deficit 
but an echocardiogram did not show a PFO, vegetation or other 
obvious cardiac source of embolism 
2) DM: A1c 6.5%
3) Hyperlipidemia: LDL 119
4) Hypertension

Transitional Issues
1) Started on ASA 81 mg daily (to be continued indefinitely) and 
Plavix (clopidogrel) 75 mg daily (to be continued for a total of 
21 days). 
2) Started on a statin (atorvastatin 40mg daily) for an LDL of 
119 at discharge 
3) Will need neurology/stroke ___ in ___ months 
4) Will need PCP ___ for diabetes, hyperlipidemia and 
hypertension
5) He will need 2 weeks of ambulatory cardiac rhythm monitoring 
for atrial fibrillation (not done here as he plans to travel 
back to ___ in a week). 

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why:
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.)
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL = 119) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given:
[ ] Statin medication allergy
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ] LDL-c less than 70 mg/dL
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form? (x) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
() Yes - (x) No. If no, why not? Patient at baseline functional 
status
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:
[ ] Statin medication allergy
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ] LDL-c less than 70 mg/dL
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 50 mg PO BID 
2. amLODIPine 5 mg PO BID 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
You will need to continue taking this medication for life 
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 tablet(s) by mouth 
once a day Disp #*30 Tablet Refills:*0 
2.  Atorvastatin 40 mg PO QPM 
Please continue taking this medication as directed. 
RX *atorvastatin 40 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  Clopidogrel 75 mg PO DAILY 
You will need to take this medication for a total of 21 days 
RX *clopidogrel 75 mg 1 tablet(s) by mouth once a day Disp #*21 
Tablet Refills:*0 
4.  amLODIPine 5 mg PO BID  
5.  Losartan Potassium 50 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transient ischemic attack

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were hospitalized due to symptoms of left hand weakness 
resulting from a TRANSIENT ISCHEMIC ATTACK, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
temporarily blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
1) Most likely cause is an abnormal heart rhythm causing a blood 
clot that spread to your brain. We monitored your heart rhythm 
in the hospital and did not see any evidence of an abnormal 
heart rhythm, and an echocardiogram (ultrasound of the heart) 
did not show a PFO (shunt or connection between the right and 
left sides of the heart) or a large blood clot in the heart. 
However, this does not mean that an abnormal rhythm does not 
exist at other times, just that it was not present when we were 
looking for it. 
2) Diabetes. Your A1c (the number that suggests how good your 
blood sugar control was over the last 3 months) was 6.5% - this 
can be improved by working with your primary care doctor. 
3) High cholesterol. Your LDL (low density lipoprotein) or "bad 
cholesterol" number was 119. 
4) High blood pressure. 

We are changing your medications as follows:
1) We started you on aspirin 81 mg daily (to be continued 
indefinitely) and clopidogrel (also known as Plavix) 75 mg daily 
(to be continued for a total of 21 days). This is to prevent 
future strokes. 
2) We started you on a statin (atorvastatin 40mg daily, also 
called Lipitor) to lower your cholesterol and reduce your risk 
of strokes 
3) You will need to follow up with a neurologist who specializes 
in stroke in the next ___ months. 
4) You will need to ___ with your primary care doctor in 
the next ___ weeks for your diabetes, high cholesterol and high 
blood pressure. 
5) You will need to wear a heart monitor for 2 weeks to look for 
an abnormal rhythm called atrial fibrillation (please ask your 
primary care doctor about this - you may need to see a 
cardiologist to set this up). 

Please take your other medications as prescribed.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (while in the ___., by dialing 911). In particular, 
since stroke can recur, please pay attention to the sudden onset 
and persistence of these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team

 
Followup Instructions:
___